US06133271
With the procedure of Example 1, the reaction of 3,4-methylenedioxyphenethylamine with 4-chloro-2-(isoxazol-5-yl)-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine yields 2-(isoxazol-5-yl)-4-(3,4-methylenedioxyphenethylamino)-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-methylenedioxyphenethylamine | C1OC=2C=C(CCN)C=CC2O1 | C9H11NO2
reactant | 4-chloro-2-(isoxazol-5-yl)-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NO1)SC(=C2)C(F)(F)F | C10H3ClF3N3OS
product | 2-(isoxazol-5-yl)-4-(3,4-methylenedioxyphenethylamino)-6-trifluoromethyl-thieno-[2,3-d]-pyrimidine | O1N=CC=C1C=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCCC2=CC1=C(C=C2)OCO1 | C19H13F3N4O3S
